US06500985B2
Di-tert-butyl dicarbonate (1.39 g) and sodium hydrogencarbonate (0.34 g) were dissolved in a 50% methanol aqueous solution (22 ml), and an aqueous solution of (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride (0.94 g) was added thereto. The mixture was stirred at 40° C. for 1.5 hours. The reaction solution was extracted twice with ethyl acetate, the resulting ethyl acetate layer was dried over anhydrous magnesium sulfate, and magnesium sulfate was removed. The ethyl acetate layer was concentrated, and crystallized by adding hexane thereto. Crystals precipitated were collected by filtration, and dried to obtain (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone (0.84 g) in a yield of 70%.

reactant | Di-tert-butyl dicarbonate | 1.39 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | 0.34 g | C(O)([O-])=O.[Na+]
reactant | (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride | 0.94 g | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
solvent | methanol | 22 ml | CO | CH4O
product | (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone | 0.84 g, yield of 70% | C(C)(C)(C)OC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C15H20ClNO3
